US04060615
N-(3-cyclohexenylcarbonyl)piperazine (7.65 g., 0.04 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (9.6 g., 0.04 mole) are reacted according to the procedure of Example 1(a). The crude product crystallized from methanol affords analytically pure 4-amino-2-[4-(3-cyclohexenylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline, m.p. 211°-213° C. resolidifying and melting at 234.0° -236.0°C. (corr.).

reactant | N-(3-cyclohexenylcarbonyl)piperazine | 0.04 mole, 7.65 g | C1(CC=CCC1)C(=O)N1CCNCC1 | C11H18N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.04 mole, 9.6 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 4-amino-2-[4-(3-cyclohexenylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CC=CCC1 | C21H27N5O3
